US08426441B2
4-tert-Butyl-N-(2-methyl-3-{8-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-imidazo[1,2-a]pyridin-6-yl}-phenyl)-benzamide
A mixture of N-[3-(8-Amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide (0.69 g, 1.73 mmol), (6-Chloro-pyridin-3-yl)-morpholin-4-yl-methanone (1.17 g, 5.19 mmol), sodium t-butoxide (0.23 g, 2.42 mmol), Pd(II)acetate (19 mg, 0.08 mmol) and 2-(dicyclohexyl-phosphino)biphenyl was stirred at 200° C. in a microwave for 100 min.

reactant | N-[3-(8-Amino-imidazo[1,2-a]pyridin-6-yl)-2-methyl-phenyl]-4-tert-butyl-benzamide | 1.73 mmol, 0.69 g | NC=1C=2N(C=C(C1)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)C(C)(C)C)=O)C)C=CN2 | C25H26N4O
reactant | (6-Chloro-pyridin-3-yl)-morpholin-4-yl-methanone | 5.19 mmol, 1.17 g | ClC1=CC=C(C=N1)C(=O)N1CCOCC1 | C10H11ClN2O2
reactant | sodium t-butoxide | 2.42 mmol, 0.23 g | CC(C)([O-])C.[Na+]
reactant | 2-(dicyclohexyl-phosphino)biphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | 4-tert-Butyl-N-(2-methyl-3-{8-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-imidazo[1,2-a]pyridin-6-yl}-phenyl)-benzamide | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=2C=C(C=3N(C2)C=CN3)NC3=NC=C(C=C3)C(=O)N3CCOCC3)C)C=C1 | C35H36N6O3
